US07759043B2
1.a 1-[9-Ethyl-6-(4-fluoro-benzoyl)-9H-carbazol-3-yl]-ethanone
To N-ethylcarbazole (5.00 g; 25.60 mmol) in CH2Cl2 (40 ml) is added 4-fluorobenzoyl chloride (4.06 g; 25.60 mmol) and AlCl3 (3.41 g; 25.6 mmol) at 0° C. After stirring for 4 h at room temperature, acetyl chloride (2.01 g; 25.60 mmol) and AlCl3 (3.41 g; 25.6 mmol) are added at 0° C. This reaction mixture is stirred at room temperature for overnight. After the reaction is completed, the reaction mixture is poured into ice-water. Then, the product is extracted with CH2Cl2. The organic layer is washed with H2O, saturated NaHCO3 aq. solution and brine, followed by drying over anhydrous MgSO4. Condensation under reduced pressure and washing with tert-Butyl methyl ether (TBME) affords a gray solid as crude product (7.20 g). The compound is used for the next reaction without further purification. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 1.50 (t, 3H), 2.73 (s, 3H), 4.45 (q, 2H), 7.21 (d, 2H), 7.49 (dd, 2H), 7.89 (dd, 2H), 8.05 (dd, 1H), 8.19 (dd, 1H), 8.59 (d, 1H), 8.78 (d, 1H).

reactant | N-ethylcarbazole | 25.60 mmol, 5.00 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | 4-fluorobenzoyl chloride | 25.60 mmol, 4.06 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | AlCl3 | 25.6 mmol, 3.41 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 25.60 mmol, 2.01 g | C(C)(=O)Cl | C2H3ClO
reactant | AlCl3 | 25.6 mmol, 3.41 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-[9-Ethyl-6-(4-fluoro-benzoyl)-9H-carbazol-3-yl]-ethanone | 7.20 g | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(C)=O)C(C1=CC=C(C=C1)F)=O | C23H18FNO2
